US08703768B2
Step 3: 6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid (2-methyl-4-methylcarbamoyl-thiazol-5-yl)-amide
The product was obtained starting from 5-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carbonyl]-amino}-2-methyl-thiazole-4-carboxylic acid (28 mg, 0.07 mmol) and methylamine hydrochloride (6.2 mg, 0.09 mmol) according to the method described in example 64, step 6 as yellow solid (16 mg, 44%).

reactant | 5-{[6-cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carbonyl]-amino}-2-methyl-thiazole-4-carboxylic acid | 0.07 mmol, 28 mg | C1(CC1)C1=CN=C(C(=N1)C(=O)NC1=C(N=C(S1)C)C(=O)O)NC=1C=NC=NC1 | C17H15N7O3S
reactant | methylamine hydrochloride | 0.09 mmol, 6.2 mg | Cl.CN
product | 6-Cyclopropyl-3-(pyrimidin-5-ylamino)-pyrazine-2-carboxylic acid (2-methyl-4-methylcarbamoyl-thiazol-5-yl)-amide | CC=1SC(=C(N1)C(NC)=O)NC(=O)C1=NC(=CN=C1NC=1C=NC=NC1)C1CC1 | C18H18N8O2S
